US06492421B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-[(N-benzylaminocarbony)methoxy]-L-phenylalanine Methyl Ester
The title compound was prepared by alkylation of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with N-benzyl-2-chloroacetamide (potasium carbonate, sodium iodide, refluxing butanone under Argon overnight). The product was purified by flash column chromatography (silica, 1:1 hexane:EtOAc) to afford the methyl ester as a white solid, mp 57-59° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | N-benzyl-2-chloroacetamide | C(C1=CC=CC=C1)NC(CCl)=O | C9H10ClNO
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-[(N-benzylaminocarbony)methoxy]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)OCC(=O)NCC1=CC=CC=C1)=O | C31H35N3O7S
